US04035512
To a mixture of 20 g. of 6-hydroxy-3,4-dihydro-1(2H)-naphthalenone and 110 ml. of concentrated hydrochloric acid is added 4.6 g. of paraformaldehyde and the mixture is agitated at room temperature for 20 hours. To the reaction mixture is added 200 ml. of water, and the resulting precipitate is recovered by filtration, rinsed with water and benzene and dried. The described procedure provides 5-chloromethyl-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone. Yield 21 g.; melting point: 172°-174° C (decomp.).

reactant | 6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | hydrochloric acid | Cl | ClH
reactant | paraformaldehyde | C=O | CH2O
product | 5-chloromethyl-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | ClCC1=C2CCCC(C2=CC=C1O)=O | C11H11ClO2
